US06255306B1
Ethyl 1-methyl-4-nitroindole-2-carboxylate
To a stirred solution of ethyl 4-nitroindole-2-carboxylate (1.57 g, 6.70 mmol) in anhydrous tetrahydrofuran (20 mL) at 0° C. under nitrogen was added sodium hydride (60% in oil, 0.375 g, 9.4 mmol, 1.4 equivalents), and the resulting effervescing mixture was stirred at room temperature under nitrogen for 30 minutes. Then, methyl iodide (1.71 g, 12.0 mmol, 1.8 equivalents) was added dropwise, and the resulting reaction solution was stirred at room temperature under nitrogen for 48 hours. A saturated solution of sodium hydrogen carbonate was then added, and the resulting aqueous mixture was extracted with ethyl acetate (2×30 mL). The organic extracts were combined, dried (sodium sulfate), and evaporated under reduced pressure. The residue was chromatographed using silica gel (approximately 50 g) and elution with 20% ethyl acetate in hexanes to afford the title compound (0.35 g, 1.41 mmol, 21%) as a yellow solid: Rf=0.30 in 20% ethyl acetate in hexanes; 1H NMR (acetone-d6) δ8.18 (d, J=7.9 Hz, 1H), 8.08 (d, J=8.1 Hz, 1H), 7.78 (s, 1H), 7.57 (t, J=8.1 Hz, 1H), 4.43 (q, J=7.1 Hz, 2H), 4.21 (s, 3H), 1.42 (t, J=7.1 Hz, 3H).

reactant | ethyl 4-nitroindole-2-carboxylate | 6.70 mmol, 1.57 g | [N+](=O)([O-])C1=C2C=C(NC2=CC=C1)C(=O)OCC | C11H10N2O4
reactant | sodium hydride | 9.4 mmol, 0.375 g, 1.4 equivalents | [H-].[Na+]
reactant | methyl iodide | 12.0 mmol, 1.71 g, 1.8 equivalents | CI | CH3I
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | Ethyl 1-methyl-4-nitroindole-2-carboxylate | 1.41 mmol, 0.35 g, 21% | CN1C(=CC2=C(C=CC=C12)[N+](=O)[O-])C(=O)OCC | C12H12N2O4
